US06939871B2
To a stirred suspension of sodium hydride (60% oil dispersion, 1.2 g, 30 mmol) in DMF (6 mL) was added dropwise 2-hydroxyacetaldehyde dimethyl acetal (3.2 g, 30 mmol). The resulting mixture was left to stir for 0.5 h, then a solution of 1-chloroisoquinoline (1.6 g, 10 mmol) in DMF (2 mL) was added and the mixture was stirred at 80° C. for 24 h. The mixture was then poured into water (150 mL) and extracted with ether (2×150 mL). The combined organic extracts were dried over sodium sulfate and evaporated in vacuo. The residue was purified by silica gel chromatography (10% ethyl acetate in hexane) to give 1-isoquinolinyloxyacetaldehyde dimethyl acetal (1.5 g, 64%).

reactant | sodium hydride | 30 mmol, 1.2 g | [H-].[Na+]
reactant | 2-hydroxyacetaldehyde dimethyl acetal | 30 mmol, 3.2 g | COC(CO)OC | C4H10O3
reactant | 1-chloroisoquinoline | 10 mmol, 1.6 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | water | 150 mL | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-isoquinolinyloxyacetaldehyde dimethyl acetal | 1.5 g, 64% | COC(C)(OC1=NC=CC2=CC=CC=C12)OC | C13H15NO3
